US06613942B1
Methyl 4-Hydroxymethylnaphthoate:
A mixture of 4-hydroxymethylnaphthoic acid (10 g, 50 mmol), methanol (300 mL), and conc. H2 SO4 (2 mL) was refluxed overnight. The insolubles were filtered off and the filtrate was concentrated. The residue was taken up in ethyl acetate and washed with aqueous NaHCO3 (2×), brine, dried over MgSO4, and concentrated to give a yellow oil. Silica gel column chromatography using ethyl acetate/hexane (1/3) gave the desired product as a yellow oil (3.3 g, 35%).

reactant | 4-hydroxymethylnaphthoic acid | 50 mmol, 10 g | OCC1=CC=C(C2=CC=CC=C12)C(=O)O | C12H10O3
reactant | methanol | 300 mL | CO | CH4O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Methyl 4-Hydroxymethylnaphthoate | 3.3 g, 35% | OCC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H12O3
